US05387684
By treating 5-[2-(5-methyl-2H-indazol-2-yl)phenyl]-2-(triphenylmethyl)-2H-tetrazole as obtained in Reference Example 8, in the same manner as in Reference Example 4 by using N-chlorosuccinimide (1 equivalent amount) in place of N-bromosuccinimide, 5-[2-(3-chloro-5-methyl-2H-indazol-2-yl)-phenyl]-2-(triphenylmethyl)-2H-tetrazole was obtained.

reactant | 5-[2-(5-methyl-2H-indazol-2-yl)phenyl]-2-(triphenylmethyl)-2H-tetrazole | CC1=CC2=CN(N=C2C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N6
reactant | N-chlorosuccinimide | 1 equivalent | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 5-[2-(3-chloro-5-methyl-2H-indazol-2-yl)-phenyl]-2-(triphenylmethyl)-2H-tetrazole | ClC=1N(N=C2C=CC(=CC12)C)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H25ClN6
